US07256198B2
Step 6: 8-{[(2S)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
8′-{[(2S)-2-(Methoxymethyl)pyrrolidinyl]sulfonyl}-3′,4′-dihydrospiro(1,3-dioxane-2,10′ (2′H)-pyrimido(1,2-a)indole) (1.30 g, 3.32 mmol) was added portion-wise to concentrated H2SO4 (13 mL) over a period of 15 minutes with cooling in an ice bath. The mixture was allowed to warm to room temperature, stirred for 1.25 hours, poured into ice and basified to pH 10.5 by the careful addition of concentrated NH4OH maintaining internal ice with an external ice bath. The resulting bright yellow-orange solid was filtered, dried, and dissolved in CH2Cl2. After stirring for 1 hour the solution was filtered and the solid was dried in vacuo at 52° C. to give the title compound as a bright yellow solid (0.95 g, 79% yield). Anal: Calc'd. for C17H21N3O4S : C, 56.18; H, 5.82; N, 11.56; Found: C, 56.38; H, 5.90; N, 11.43. NMR: consistent. MS: (ES−) m/z 362 [M−H]. IR: consistent. m.p.: 171-172° C. Opt. Rotation: −109.70 (calculated) at 25° C. in CHCl3 (1%concentration), wavelength 589.

reactant | 8′-{[(2S)-2-(Methoxymethyl)pyrrolidinyl]sulfonyl}-3′,4′-dihydrospiro(1,3-dioxane-2,10′ (2′H)-pyrimido(1,2-a)indole) | 3.32 mmol, 1.30 g | COC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C3(C=4N(C2C=C1)CCCN4)OCCCO3 | C20H27N3O5S
reactant | H2SO4 | 13 mL | OS(=O)(=O)O | H2O4S
reactant | NH4OH | [NH4+].[OH-]
product | 8-{[(2S)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.95 g, 79% yield | COC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C(C=3N(C2C=C1)CCCN3)=O | C17H21N3O4S
